US07417055B2
[2-(4-{4-[4-Methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phosphonic acid
To a solution of [2-(4-{4-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phosphonic acid diethyl ester (8 mg, 0.012 mmol) in DMF (1 mL) was added TMSBr (15 μL, 0.12 mmol) at room temperature. The reaction was allowed to proceed at room temperature for 14 hours. Another portion of TMSBr (20 μL) was added and heated at 110° C. for 12 hours when completion of the reaction was detected by LCMS. The reaction was cooled down to room temperature and quenched with addition of MeOH. The reaction mixture was dried under reduced pressure and the residue was purified by RP HPLC using a C18 column with a gradient of H2O— Acetonitrile (5-100%) over 20 minutes to provide 4.2 mg (50%) of the product as mono-TFA salt. 1H NMR (300 MHz, CD3OD) δ 1.80-1.84 (m, 2H), 2.08-2.02 (m, 2H), 2.23 (s, 3H), 3.07 (bs, 4H), 3.30-3.32 (2H, possible overlap with solvent), 3.89 (m, 2H), 4.01 (s, 2H), 6.87 (s, 1H), 7.23-7.3 (m, 3H), 7.52-7.60 (m, 3H), 8.01 (d, 2H, J=8 Hz), 8.08 (dd, 1H, J=2, 5 Hz), 8.30 (s, 1H), 8.58 (d, 1H, J=5 Hz), 8.89 (d, 1H, J=2 Hz), 9.22 (dd, 1H, J=2, 5 Hz), 9.63 (s, 1H); 31P (121.4 MHz, CD3OD) δ 21.9; MS (m/z) 588 [M+H]+.

reactant | [2-(4-{4-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phosphonic acid diethyl ester | 0.012 mmol, 8 mg | C(C)OP(OCC)(=O)CCN1CCN(CC1)CC1=CC=C(C=C1)C(NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C34H42N7O4P
reactant | TMSBr | 0.12 mmol, 15 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | TMSBr | 20 μL | C[Si](C)(C)Br | C3H9BrSi
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | [2-(4-{4-[4-Methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phosphonic acid | 4.2 mg, 50% | CC1=C(C=C(C=C1)NC(=O)C1=CC=C(CN2CCN(CC2)CCP(O)(O)=O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C30H34N7O4P
